US04015009
Similarly, 4.2 g. (0.02 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one, 3.2 g. (0.02 m.) of m-acetamidobenzaldehyde, 200 ml. of chloroform and 0.5 ml. of piperidine is azeotroped for four hours and the reaction mixture is filtered to yield 3-(m-acetamidocinnamoyl)-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 222°-224° C.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | m-acetamidobenzaldehyde | C(C)(=O)NC=1C=C(C=O)C=CC1 | C9H9NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(m-acetamidocinnamoyl)-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)NC=1C=C(C=CC(=O)C2C(OC(C(=C2O)C(C)=O)=O)=O)C=CC1 | C18H15NO7
